US07825249B2
Tris(3-bromobenzyl)bromomethane
500 ml of a 30% by weight solution of hydrogen bromide in glacial acetic acid were added dropwise to a solution of 140.7 g (270 mmol) of 1,1,2-tris(3-bromobenzyl)-ethene in 1000 ml of glacial acetic acid. After the mixture had been stirred at room temperature for 48 h, the colourless precipitate was filtered off with suction, washed twice with 200 ml of glacial acetic acid each time and subsequently dried under reduced pressure. The yield, with a purity of about 97%, was 157.2 g (261 mmol), corresponding to 96.7% of theory.

reactant | hydrogen bromide | Br | BrH
reactant | 1,1,2-tris(3-bromobenzyl)-ethene | 270 mmol, 140.7 g | BrC=1C=C(CC(=CCC2=CC(=CC=C2)Br)CC2=CC(=CC=C2)Br)C=CC1 | C23H19Br3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
product | Tris(3-bromobenzyl)bromomethane | BrC=1C=C(CC(Br)(CC2=CC(=CC=C2)Br)CC2=CC(=CC=C2)Br)C=CC1 | C22H18Br4
